US07566803B2
C. Enantiomer 1 of 5-(4-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzylidene)-thiazolidine-2,4-dione
To a mixture of enantiomer 1 of 4-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzaldehyde (0.64 g, 1.61 mmol) and toluene (20 mL) is added 90% 2,4-thiazolidinedione (0.25 g, 1.94 mmol), and piperidine acetate (0.04 g, 0.24 mmol). The solution is heated to a reflux overnight and the water removed by a Dean-Stark trap. The solution is diluted with EtOAc (60 mL), washed with water (50 mL), saturated NaHCO3 (50 mL), dried over MgSO4, filtered and concentrated. Purified by ISCO (20%-50% EtOAc gradient) to furnish the title compound (0.75 g, 1.51 mmol, 94%).

reactant | 4-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzaldehyde | 1.61 mmol, 0.64 g | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C1=CC(=C(C=O)C=C1)C | C26H36O3
reactant | 2,4-thiazolidinedione | 1.94 mmol, 0.25 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine acetate | 0.24 mmol, 0.04 g | C(C)(=O)O.N1CCCCC1
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzylidene)-thiazolidine-2,4-dione | 1.51 mmol, 0.75 g, 94% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C1=CC(=C(C=C2C(NC(S2)=O)=O)C=C1)C | C29H37NO4S
